US07544689B2
(3S)-3-(Trityl-amino)-pentan-2-one
To a stirred solution of DMSO (1.95 mL, 2.8 eq, 27.48 mmol) in DCM (30 mL) under an argon atmosphere at −45° C., was added oxalyl chloride (2 M in DCM, 6.85 mL, 1.4 eq, 13.70 mmol) dropwise. The reaction mixture was stirred at −45° C. for 1 h, after which time a solution (2R,3S)-3-(trityl-amino)-pentan-2-ol (3.39 g, 1 eq, 9.83 mmol) in DCM (20 mL) was added dropwise with stirring. The reaction mixture was stirred at this temperature for 4 h, when TLC (hexane:ether; 80:20) indicated that the reaction had gone to completion. To the reaction mixture was added N-ethylpiperidine (6.71 mL, 5 eq, 48.84 mmol), and the solution allowed to warm to room temperature over 16 h. The reaction mixture was diluted with more DCM (50 mL) and washed with water (200 mL). The aqueous phase was extracted with DCM (2×50 mL), and the combined organic phase washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was dissolved in Et2O (100 mL), the solid precipitate removed by filtration and the filtrate was evaporated in vacuo. The residue was dissolved in hexane (50 mL), the solid precipitate removed by filtration and the filtrate was evaporated in vacuo to afford the title compound as a light yellow oil. Yield: 3.15 g (93%). 1H-NMR (d6-DMSO, 250 MHz): δ 0.73 (t, 3H, J=7.50 Hz, —NHCH(CH2CH3)C(CH3)O), 1.45-1.62 (m, 5H, —NHCH(CH2CH3)C(CH3)O), 3.12 (d, 1H, J=8.53 Hz, —NHCH(CH2CH3)C(CH3)O), 3.31 (m, 1H, —NHCH(CH2CH3)C(CH3)O), 7.13-7.45 (m, 15H, 3×Ph).

reactant | DMSO | 27.48 mmol, 1.95 mL, 2.8 eq | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 13.70 mmol, 2 M, 6.85 mL, 1.4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2R,3S)-3-(trityl-amino)-pentan-2-ol | 9.83 mmol, 3.39 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]([C@@H](C)O)CC | C24H27NO
reactant | N-ethylpiperidine | 48.84 mmol, 6.71 mL, 5 eq | C(C)N1CCCCC1 | C7H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (3S)-3-(Trityl-amino)-pentan-2-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(C)=O)CC | C24H25NO
